datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:82][C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CC1(C)[O:82][C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]2[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:91](=[O:92])[O:102]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)[C:41]2=[N:42]O[N:35]=[C:34]12 10=20;20,21=21,22;22,23=23"
"CC/[C:11](=[CH:10]/C)[O:12][Si:13](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[C:11]([CH:10](C)[C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)=[O:12].C[Si+:13](C)C 10,11=10,20;12,13=11,12"
C[N:10](C)[NH:61][CH:62]=[O:63].F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[N+:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[NH:61][CH:62]=[O:63] 10=20
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2C3=C(C=CC=C3)[CH:62]([Sn:63](C)(C)C)[CH+:11]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:20]([C:31]2=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12"
"O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>O=[N+]([O-])C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>COC1=CC=C(C[C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]3)[CH:41]=[CH:42][C:53]3=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C[CH:10]=[C:11](C)C>>C[CH:10]([C+:11](C)C)[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12]>>CC[O:72][C:11]([CH:10]([C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12"
CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C)C1=CC=C(C[C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10](C1CCCCC1)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12"
"CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1.CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[O:33][C:31]([C:20]1([CH:10]2[C:61](=[O:62])CC(C)(C)C[C:71]2=[O:72])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
